US07425653B2
(1-3) Synthesis of 2-((2-methoxyvinyl)phenyl)-6-methylnaphthalene
Under an atmospheric argon gas flow, 2-(6-methyl-2-naphthyl)benzaldehyde in an amount of 13.7 g (55 mmol), (methoxymethyl)triphenylphosphoniumchloride in an amount of 21 g (61 mmol), t butoxy potassium in an amount of 7.5 g (67 mmol) and desiccated tetrahydrofuran in an amount of 250 milliliter were placed into a three neck flask with a cooling pipe and having a capacity of 500 milliliter, and the resultant solution was stirred at the room temperature for a night. After the reaction terminated, adding water in an amount of 100 milliliter into the reacted solution, an organic layer was separated, followed by drying with the use of magnesium sulfate. After removing the solvent by distillation by means of a rotary evaporator, the resultant crude product was refined by means of column chromatography (silicagel, hexane/dichloromethane=10/90), and as a result, 12.8 g of aimed compound (white crystal) was obtained (yield: 84%).

reactant | 2-(6-methyl-2-naphthyl)benzaldehyde | CC=1C=C2C=CC(=CC2=CC1)C1=C(C=O)C=CC=C1 | C18H14O
reactant | (methoxymethyl)triphenylphosphoniumchloride | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | butoxy potassium | C(CCC)O[K]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-((2-methoxyvinyl)phenyl)-6-methylnaphthalene | 12.8 g, yield: 84% | COC=CC1=C(C=CC=C1)C1=CC2=CC=C(C=C2C=C1)C | C20H18O
